US06329395B1
To a vigorously stirred ice-cold mixture of 2-fluoro-4-(4′-methoxy-benzylmercapto)nitrobenzene and NiCl2.6H2O (6.08 g, 25.6 mmol) in CH3OH was added NaBH4 (1.93 g, 51.1 mmol) in portions. The reaction mixture was stirred for 1 h at 0° C., then poured into cold water. The whole was extracted with CH2Cl2 (3×100 ml) and the combined organic layers were dried (Na2SO4), filtered, and evaporated to give 2-fluoro-4-(4′-methoxybenzylmercapto)aniline. MS (Cl) m/e 264 (M+H)+.

reactant | 2-fluoro-4-(4′-methoxy-benzylmercapto)nitrobenzene | FC1=C(C=CC(=C1)SCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C14H12FNO3S
reactant | NaBH4 | 51.1 mmol, 1.93 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | CH3OH | CO | CH4O
product | 2-fluoro-4-(4′-methoxybenzylmercapto)aniline | FC1=C(N)C=CC(=C1)SCC1=CC=C(C=C1)OC | C14H14FNOS
